US08957203B2
Step 4: Preparation of 6-methoxy-4-morpholinoisoquinolin-1-ol
To a solution of 4-bromo-6-methoxyisoquinolin-1(2H)-one (0.5 g, 1.968 mmol) and morpholine (0.429 g, 4.92 mmol) in ethylene glycol (2.5 ml) was added DIPEA (1.031 ml, 5.90 mmol). The reaction was irradiated in a microwave at 145° C. for 1.5 h. The reaction mixture was adsorbed on silica was purified by silica gel chromatography (30% ethyl acetate in pet ether) to get desired compound (0.29 g, 53.8%) as solid. 1H NMR (400 MHz, CDCl3): δ ppm 10.98(s, 1H), 8.11 (s, 1H), 7.24-7.11 (m, 3H), 3.88 (s, 3H), 3.56-3.55 (m, 4H), 2.52-2.51 (m, 4H); MS: MS m/z 261 (M++1).

reactant | 4-bromo-6-methoxyisoquinolin-1(2H)-one | 1.968 mmol, 0.5 g | BrC1=CNC(C2=CC=C(C=C12)OC)=O | C10H8BrNO2
reactant | morpholine | 4.92 mmol, 0.429 g | N1CCOCC1 | C4H9NO
reactant | DIPEA | 5.90 mmol, 1.031 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | ethylene glycol | 2.5 ml | C(CO)O | C2H6O2
product | 6-methoxy-4-morpholinoisoquinolin-1-ol | 0.29 g, 53.8% | COC=1C=C2C(=CN=C(C2=CC1)O)N1CCOCC1 | C14H16N2O3
